US04495182
A mixture of 2-chloropyridine (16 g) and methyl bromoacetate (72 g) was allowed to stand for one week at room temperature and then heated for 7 hours at 60° C. The resulting precipitates were collected by filtration and washed with diethyl ether to give 1-methoxycarbonylmethyl-2-chloropyridinium bromide (17.43 g), mp. 163° to 165° C.

reactant | 2-chloropyridine | 16 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | methyl bromoacetate | 72 g | BrCC(=O)OC | C3H5BrO2
product | 1-methoxycarbonylmethyl-2-chloropyridinium bromide | 17.43 g | [Br-].COC(=O)C[N+]1=C(C=CC=C1)Cl | InChI=1S/C8H9ClNO2.BrH/c1-12-8(11)6-10-5-3-2-4-7(10)9;/h2-5H,6H2,1H3;1H/q+1;/p-1
